US09371295B2
(S)-N-(1-(5-(1-methyl-2-oxo-1,2-dihydroquinolin-3-yl)oxazol-2-yl)-7-oxononyl)thiazole-5-carboxamide (Compound 112)
(S)-3-(2-(1-amino-7-oxononyl)oxazol-5-yl)-1-methylquinolin-2(1 H)-one (1 eq), prepared as described in steps 1 to 5 of Example 7, was treated with a solution of thiazole-5-carboxylic acid (1.3 eq), HOBT (1.3 eq) and EDC.HCl (1.3 eq) in DMF (premixed for 3 min), followed by DIPEA (1.3 eq). The mixture was stirred at room temperature for 2 h and the desired product was isolated by preparative RP-HPLC, using water (+0.01% TFA) and MeCN (+0.01% TFA) as eluents (column C18). The pooled product fractions were lyophilized and the product was obtained as a white solid. MS (ES) C26H28N4O4S requires: 492.59, found: 493. 1H-NMR (400 MHz, DMSO-d6) δ: 9.28 (1 H, d, J=8 Hz), 9.26 (1 H, s), 8.62 (1 H, s), 8.29 (1 H, s), 7.91 (1 H, d, J=7.6 Hz), 7.84 (1 H, s), 7.68 (1 H, t, J=7.2 Hz), 7.61 (1 H, d, J=8.2 Hz), 7.34 (1 H, t, J=7.6 Hz), 5.27-5.22 (1 H, m), 3.75 (3 H, s), 2.39-2.36 (4 H, m), 2.09-2.06 (1 H, m), 2.00-1.96 (1H, m), 1.50-1.27 (6 H, m), 0.89 (3 H, t, J=7.2 Hz).

reactant | (S)-3-(2-(1-amino-7-oxononyl)oxazol-5-yl)-1-methylquinolin-2(1 H)-one | 1 eq | N[C@@H](CCCCCC(CC)=O)C=1OC(=CN1)C=1C(N(C2=CC=CC=C2C1)C)=O | C22H27N3O3
reactant | thiazole-5-carboxylic acid | 1.3 eq | S1C=NC=C1C(=O)O | C4H3NO2S
reactant | HOBT | 1.3 eq | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDC.HCl | 1.3 eq | CCN=C=NCCCN(C)C.Cl
reactant | DIPEA | 1.3 eq | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | CN(C)C=O | C3H7NO
product | (S)-N-(1-(5-(1-methyl-2-oxo-1,2-dihydroquinolin-3-yl)oxazol-2-yl)-7-oxononyl)thiazole-5-carboxamide | CN1C(C(=CC2=CC=CC=C12)C1=CN=C(O1)[C@H](CCCCCC(CC)=O)NC(=O)C1=CN=CS1)=O | C26H28N4O4S
